US04241071
2.0 g of 1-methyl-4-(α-phenyl-2-tolyl)-4-piperidinol, free base of Example 1, is treated with 8.15 ml of cyclopropane carboxylic acid chloride with stirring and cooling. The resulting suspension is stirred for 16 hours at ambient temperature and then diluted with 25 ml of ether and permitted to stand for 144 hours. The precipitate is collected by suction filtration and the filter cake washed with ether, dried in vacuo at 40° C. for 16 hours leaving colorless crystals which are recrystallized twice from isopropyl alcohol to give colorless crystals, mp 198°-200° C. of 4-cyclopropylcarbonyloxy-1-methyl-4-(α-phenyl-2-tolyl)piperidine hydrochloride.

reactant | 1-methyl-4-(α-phenyl-2-tolyl)-4-piperidinol | 2.0 g | CN1CCC(CC1)(O)C1=C(C=CC=C1)CC1=CC=CC=C1 | C19H23NO
reactant | cyclopropane carboxylic acid chloride | 8.15 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | ether | 25 ml | CCOCC | C4H10O
product | 4-cyclopropylcarbonyloxy-1-methyl-4-(α-phenyl-2-tolyl)piperidine hydrochloride | Cl.C1(CC1)C(=O)OC1(CCN(CC1)C)C1=C(C=CC=C1)CC1=CC=CC=C1 | InChI=1S/C23H27NO2.ClH/c1-24-15-13-23(14-16-24,26-22(25)19-11-12-19)21-10-6-5-9-20(21)17-18-7-3-2-4-8-18;/h2-10,19H,11-17H2,1H3;1H
